US04818441
To a solution of geranyl acetate (1.5 g) in CH2Cl2 (30 ml) is added m-chloroperbenzoic acid (1.3 g) under stirring at -20° C. The mixture is stirred for 90 minutes, at the end of which time it is concentrated under reduced pressure and the residue is dissolved in hexane. The insoluble matter is filtered off, the filtrate evaporated to dryness under reduced pressures and the residue purified by column chromatography on silica gel (30 g) with CCl4 -ethyl acetate (10:1). The above procedure provides a colorless oil of 1-acetoxy-3-methyl-6,7-epoxy-2-octene. A solution of the above product (780 mg) in ether (10 ml) is added to a solution of LiAlH4 (290 mg) in ether (30 ml) under ice-cooling and stirring. The mixture is stirred for 30 minutes, at the end of which time the excess LiAlH4 is decomposed with cold water. To this reaction mixture is added a saturated aqueous solution of sodium hydrogen carbonate (5 ml), the ether layer is separated, and the water layer is extracted with ethyl acetate. The ether layer and the extract are pooled and worked up in the conventional manner. The residue is purified by column chromatography on silica gel (15 g) with CCl4 -acetone (3:1) as the eluent. The procedure yields a colorless oil of 3,7-dimethyl-2-octene-1,7-diol (XI, n=O). 2,3-Dimethoxy-5-methyl-1,4-benzoquinone (336 mg) is reduced with Na2S2O4 (4 g) and the resultant VI (R=H3CO, X=Y=OH) (309 mg) and XI (309 mg) are dissolved in dioxane (10 ml). Under stirring in nitrogen gas stream and at room temperature, a solution of BF3 -ether (1.5 ml) in dioxane (2 ml) is added. The mixture is stirred for 2 hours, whereupon IIId (R=H3CO, X=Y=OH, n=O, m=3) is obtained.

reactant | geranyl acetate | 1.5 g | C(C)(=O)OC\C=C(/C)\CCC=C(C)C | C12H20O2
reactant | m-chloroperbenzoic acid | 1.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-acetoxy-3-methyl-6,7-epoxy-2-octene | C(C)(=O)OCC=C(CCC1C(C)O1)C | C11H18O3
